US04188325
A solution of 5-cyano-3-methylthiooxindole (950 mg, 4.66 mmol) and N-chlorosuccinimide (800 mg, 5.95 mmol) in 100 ml of methylene chloride was stirred at room temperature for 24 hours. The solvent was removed in vacuo, yielding 3-chloro-5-cyano-3-methylthiooxindole and the residue, which was dissolved in a minimum of tetrahydrofuran, was added to a vigorously stirred slurry of red mercuric oxide (1.00 g, 4.7 mmol) and boron trifluoride ethereate (670 mg, 4.7 mmol) in 100 ml of 50 percent aqueous tetrahydrofuran. After 2 hours, the reaction mixture was filtered through a pad of Celite. The pad was washed with three 100-ml portions of chloroform. The organic layer was separated, dried over anhydrous magnesium sulfate, filtered, and the filtrate was evaporated. The residue was chromatographed on silica gel. Elution with chloroform-ethanol (9:1 v/v) gave 5-cyanoisatin as an orange solid (525 mg, 65%), mp 270°-272° (dec); ir (KBr) 3100 (NH), 2220 (C≡N), 1730 (C=O) and 1710 cm-1 (C=O); nmr (DMSO-d6)π-1.30 (1H, b, s, NH), 2.00 (d of d, 1H, J4,6 =2 Hz, J6,7 =8.5 Hz, H6), 2.10 (d, 1H, J4,6 =2 Hz, H4), and 2.90 (d, 1H, J6,7 =8.5 Hz, H7); mass spectrum, m/e obs. 172.0238 (calc. 172.0272).

reactant | 5-cyano-3-methylthiooxindole | 4.66 mmol, 950 mg | C(#N)C=1C=C2C(C(NC2=CC1)=S)C | C10H8N2S
reactant | N-chlorosuccinimide | 5.95 mmol, 800 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-chloro-5-cyano-3-methylthiooxindole | ClC1(C(NC2=CC=C(C=C12)C#N)=S)C | C10H7ClN2S
